US07208629B2
N4′-Cyclopropylmethyl-6-methyl-N3-(quinolin-5-ylmethyl)-1,1′-biphenyl-3,4′-dicarboxamide was synthesised from {4′-[(cyclopropylmethylamino)carbonyl]-6-methyl-1,1′-biphenyl-3-yl}carboxylic acid and 5-aminomethylquinoline using method A. NMR: δH [2H6]-DMSO 9.11, (1H, t), 8.91, (1H, dd), 8.65–8.60, (2H, m), 7.95–7.91, (3H, m), 7.84, (1H, dd), 7.78, (1H, d), 7.72, (1H, t), 7.58–7.55, (2H, m), 7.46, (2H, d), 7.41, (1H, d), 4.95, (2H, d), 3.15, (2H, t), 2.27, (3H, s), 1.03, (1H, m), 0.42, (2H, m), 0.23, (2H, m). LCMS: retention time 3.15 min, MH+450.

reactant | {4′-[(cyclopropylmethylamino)carbonyl]-6-methyl-1,1′-biphenyl-3-yl}carboxylic acid | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)O | C19H19NO3
reactant | 5-aminomethylquinoline | NCC1=C2C=CC=NC2=CC=C1 | C10H10N2
product | N4′-Cyclopropylmethyl-6-methyl-N3-(quinolin-5-ylmethyl)-1,1′-biphenyl-3,4′-dicarboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)NCC1=C2C=CC=NC2=CC=C1 | C29H27N3O2
